US09399647B2
A stirring suspension of 2-Methoxymethyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-4-ol (2.0 g, 0.008 mol) in POCl3 (20 ml) was heated to 90-95° C. for 4 h and progress was monitored by TLC. After completion of reaction, excess of POCl3 was distilled off to get oily mass which was poured onto ice-water solution (200 ml) and basified with saturated solution of NaHCO3 to pH ˜8. The aqueous phase was extracted well with ethyl acetate (2×250 ml). Combined organic layers were washed with brine solution (100 ml), dried over anhydrous Na2SO4 and concentrated in vacuo to get brown colored crude compound 4-Chloro-2-methoxymethyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidine which was forwarded as such for the next step reaction. Yield: (2 g, 93%); 1H NMR (400 MHz, CDCl3) δ ppm=4.60 (s, 2H), 3.37 (s, 3H), 3.00-2.99 (m, 2H), 2.88 (m, 2H), 1.85-1.83 (m, 4H); LCMS: [M+H]=269.1.

reactant | 2-Methoxymethyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-4-ol | 0.008 mol, 2.0 g | COCC=1N=C(C2=C(N1)SC1=C2CCCC1)O | C12H14N2O2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | POCl3 | 20 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-2-methoxymethyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidine | ClC=1C2=C(N=C(N1)COC)SC1=C2CCCC1 | C12H13ClN2OS
